US07572820B2
4-Chloro-2-ethyl-1-{[5-(trifluoromethyl)-2-furanyl]methyl}-1H-benzimidazole-5-carbonitrile
Synthesized as described in Example 197B from 4-chloro-2-ethyl-1H-benzimidazole-5-carbonitrile and 2-(bromomethyl)-5-(trifluoromethyl)furan: MS (ESI) m/z 354 (M+1).

reactant | 4-chloro-2-ethyl-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2NC(=NC21)CC)C#N | C10H8ClN3
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 4-Chloro-2-ethyl-1-{[5-(trifluoromethyl)-2-furanyl]methyl}-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2N(C(=NC21)CC)CC=2OC(=CC2)C(F)(F)F)C#N | C16H11ClF3N3O
